US04107310
Using the procedure of Example 1, 11.57 g of 4-hydroxy-8-trifluoromethyl-quinoline-3-carboxylic acid chloride were reacted with 5.52 g of 2-aminoimidazole sulfate to obtain 3.9 g of N-(1H-imidazol-2-yl)-4-hydroxy-8-trifluoromethyl-quinoline-3-carboxamide melting at 211° C.

reactant | 4-hydroxy-8-trifluoromethyl-quinoline-3-carboxylic acid chloride | 11.57 g | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)Cl | C11H5ClF3NO2
reactant | 2-aminoimidazole sulfate | 5.52 g | S(=O)(=O)(O)O.NC=1NC=CN1
product | N-(1H-imidazol-2-yl)-4-hydroxy-8-trifluoromethyl-quinoline-3-carboxamide | 3.9 g | N1C(=NC=C1)NC(=O)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C14H9F3N4O2
